data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_540691_1,[C:1]1([O:6][H:10])([H:12])[C:2]([C:3](=[C:4]([H:13])[H:14])[O:7][H:11])([O:5][H:9])[O:8]1>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[O:7][H:11])=[O:8])([O:5][H:9])([O:6][H:10])[H:12],32.448652499971615
MR_203006_2,[C:1]([N:3](/[C:4](=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])[N:6]([H:9])[H:10])[H:8])([H:13])([H:14])[H:15]>>[C:1]([N:3](/[C:5](=[C:4](/[C:2]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])[N:7]([H:11])[H:12])[H:8])([H:13])([H:14])[H:15],66.56394500001568
MR_71109_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[C:4]([H:13])[H:14])[H:9])([O:5][H:8])[O:6][H:7]>>[C:1](\[C:2]([H:10])([H:11])[H:12])(=[C:3](\[C:4]([O:5][H:8])([H:13])[H:14])[H:9])[O:6][H:7],62.13567749999584
MR_525072_2,[C:1]([C:5]([C:2]([H:17])([H:18])[H:19])[C:4]([C:3]([O:8][H:10])[N:9][N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:15])([H:16])[H:20]>>[C:1]([C:5]1([C:2]([H:17])([H:18])[H:19])[C:4]([N:7]([H:13])[H:14])=[C:3]([O:8][H:10])[N:9]1[N:6]([H:11])[H:12])([H:15])([H:16])[H:20],44.10571999996748
MR_535707_0,[C:1]([C:2]([O:6][H:9])=[O:7])([N:3]([H:11])[H:12])([N:4]([H:10])[H:13])[O:5][H:8]>>[C:1]([C:2]([O:5][H:8])=[O:7])([N:3]([H:11])[H:12])([N:4]([H:10])[H:13])[O:6][H:9],24.215852499962267
MR_238944_0,[C:1](/[C:3]([N:4]([H:11])[H:12])=[N:7]/[C:2]([H:13])([H:14])[H:15])([O:5][H:9])([O:6][H:8])[H:10]>>[C:1](=[C:3]([N:4]([H:11])[H:12])[N:7]([C:2]([H:13])([H:14])[H:15])[H:10])([O:5][H:9])[O:6][H:8],59.67023000001405
MR_52465_1,[C:1](/[C:4](=[N:5]\[H:10])[C:6]1([H:12])[N:3]([H:9])[C:7]1([C:8]([C:2]([H:18])([H:19])[H:20])([H:11])[H:14])[H:13])([H:15])([H:16])[H:17]>>[C:1](/[C:4]([N:5]([H:10])[H:11])=[C:6](\[N:3](/[C:7](=[C:8](\[C:2]([H:18])([H:19])[H:20])[H:14])[H:13])[H:9])[H:12])([H:15])([H:16])[H:17],57.20980250001958
MR_237905_0,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])([O:5][H:8])(/[N:6]=[N:7]/[N:4]([H:11])[H:12])[H:10]>>[C:1](\[O:5][H:8])(=[N:6]/[N:7]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])[N:4]([H:11])[H:12])[H:10],67.33890749998523
MR_202766_1,[C:1]1([N:3]([H:6])[H:7])([H:5])[C:2]([H:8])([H:9])[O:4]1>>[C:1]([C:2]([N:3]([H:6])[H:7])([H:8])[H:9])(=[O:4])[H:5],57.95841000000216
MR_161733_0,[C@:1]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])(/[C:4]([N:6]([H:14])[H:15])=[N:8]/[N:5]([H:12])[H:13])[H:11]>>[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:4](/[N:6]([H:14])[H:15])[N:8]([C:3]([O:7][H:10])=[O:9])[N:5]([H:12])[H:13])[H:11],55.31224249999511
MR_580641_1,[C:1]([C:2]([C:6]([C:4]([H:20])([H:21])[H:22])=[C:10]([H:25])[H:26])([H:15])[H:16])([C:5]([C:3]([H:17])([H:18])[H:19])=[C:9]([H:23])[H:24])([N:7]([H:11])[H:12])[N:8]([H:13])[H:14]>>[C:1](\[C:2]([C:6]([C:4]([H:20])([H:21])[H:22])([C:5]([C:3]([H:17])([H:18])[H:19])=[C:9]([H:23])[H:24])[C:10]([H:13])([H:25])[H:26])([H:15])[H:16])([N:7]([H:11])[H:12])=[N:8]\[H:14],68.21426999998664
MR_681118_1,[C:1]12([C:5]([H:16])([H:17])[H:18])[C:2]([H:10])([C:3]([C:6]([N:7]([H:12])[H:13])=[O:9])([H:11])[C:4]1([H:14])[H:15])[O:8]2>>[C:1]1([C:2](=[O:8])[H:10])([C:5]([H:16])([H:17])[H:18])[C:4]([H:14])([H:15])[C:3]([H:11])=[C:6]([N:7]([H:12])[H:13])[O:9]1,38.5805825000061
MR_155667_2,[C:1]([N:2]([N:3]([H:7])[H:8])[H:6])([C:4](=[O:5])[H:11])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C@@:4]([N:2]([N:3]([H:7])[H:8])[H:6])([H:11])[O:5]1,72.06021749997859
MR_309767_0,[C:1]([C:2]([O:7][H:10])([H:13])[H:14])([C:3]([N:8]=[C:5]([H:17])[H:18])([H:15])[H:16])([N:4]([H:11])[H:12])[O:6][H:9]>>[C:1]([C:3]([C:2]([O:7][H:10])([H:13])[H:14])([H:15])[H:16])([N:4]([H:11])[H:12])([O:6][H:9])[N:8]=[C:5]([H:17])[H:18],62.76694249997149
MR_639743_1,[C:1]1([H:8])([H:9])[N:2]([H:7])[C:3]23[C:4]([H:10])([H:11])[N:5]2[N:6]13>>[C:1]1([H:8])([H:9])[N:2]([H:7])[C:3](=[C:4]([H:10])[H:11])[N:5]=[N:6]1,20.934027500008483
MR_415466_0,[C:1](/[C:4](=[C:3](/[O:6][C:2]([O:7][H:10])=[O:9])[O:8][H:11])[N:5]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]([C:3]1([O:8][H:11])[C:2](=[O:9])[O:6]1)([N:5]([H:12])[H:13])[O:7][H:10])([H:14])([H:15])[H:16],45.63682000006111
MR_568091_1,[C:1](/[C:6](=[C:4](\[N:2]([C:3]([N:5]([H:12])[H:13])=[O:9])[O:7][H:10])[O:8][H:11])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C@:6]([C:3]([N:5]([H:12])[H:13])=[O:9])(/[C:4](=[N:2]/[O:7][H:10])[O:8][H:11])[H:14])([H:15])([H:16])[H:17],46.86734750002188
MR_344228_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([C:2]([O:7][H:9])([H:14])[H:15])=[O:8])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([C:2](=[O:7])[H:14])([O:8][H:9])[H:15])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13],40.20141499998019
MR_522000_0,[C:1](/[C:6](=[C:2]([N:3]([H:8])[H:9])\[N:7]=[C:5](/[N:4]([H:10])[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:2]([N:3]([H:8])[H:9])=[N:7][C:5]1([N:4]([H:10])[H:11])[H:12])([H:14])([H:15])[H:16],46.47327749994673
MR_167420_0,[C:1]([N:3]([H:8])[H:9])([O:4][C:2]([O:5][H:7])=[O:6])([H:10])[H:11]>>[C:1]([N:3]([H:8])[H:9])([O:6][C:2](=[O:4])[O:5][H:7])([H:10])[H:11],31.2507549999998
